US08202858B2
N-Benzyl-3-[4-(2,3,4,5-tetrahydro-benzo[b]azepine-1-carbonyl)-phenyl]-propionamide
A mixture of 3-[4-(2,3,4,5-tetrahydro-benzo[b]azepine-1-carbonyl)-phenyl]-propionic acid from Example E65.4 (57 mg, 0.18 mmol) and thionyl chloride (0.2 ml, 2.74 mmol) in dichloromethane (6 ml) was heated at reflux for 2 h then volatiles were removed in vacuo. The residue was dissolved in dichloromethane (8 ml) then benzylamine (0.022 ml, 0.20 mmol) and triethylamine (0.05 ml, 0.36 mmol) were added. The mixture was stirred for 3 h at room temperature then concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 30% pet. ether:70% EtOAc) to give a white fluffy solid identified as the title compound (36.5 mg, 50%).

reactant | 3-[4-(2,3,4,5-tetrahydro-benzo[b]azepine-1-carbonyl)-phenyl]-propionic acid | N1(C2=C(CCCC1)C=CC=C2)C(=O)C2=CC=C(C=C2)CCC(=O)O | C20H21NO3
reactant | thionyl chloride | 2.74 mmol, 0.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzylamine | 0.20 mmol, 0.022 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 0.36 mmol, 0.05 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | N-Benzyl-3-[4-(2,3,4,5-tetrahydro-benzo[b]azepine-1-carbonyl)-phenyl]-propionamide | 36.5 mg, 50% | C(C1=CC=CC=C1)NC(CCC1=CC=C(C=C1)C(=O)N1C2=C(CCCC1)C=CC=C2)=O | C27H28N2O2
